US06100257
First, 25 g of 4-chloro-2-fluorobenzaldehyde was dissolved in a mixed solvent consisting of 250 ml of 1,4-dioxane and 25 ml of methanol, to which 2.4 g of sodium borohydride was added under ice cooling, and the mixture was stirred for 30 minutes. After completion of the reaction, a small amount of diluted aqueous hydrochloric acid was added, and the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried, and concentrated. The residue was subjected to silica gel column chromatography, which afforded 25 g of 4-chloro-2-fluorobenzyl alcohol.

reactant | 4-chloro-2-fluorobenzaldehyde | 25 g | ClC1=CC(=C(C=O)C=C1)F | C7H4ClFO
reactant | 1,4-dioxane | 250 ml | O1CCOCC1 | C4H8O2
reactant | sodium borohydride | 2.4 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 25 ml | CO | CH4O
product | 4-chloro-2-fluorobenzyl alcohol | 25 g | ClC1=CC(=C(CO)C=C1)F | C7H6ClFO
